US06479536B1
N-(4-Fluorobenzyl)-3-(4-fluorophenyl)-2,4,6,7-tetramethyl-1-benzofuran-5-amine
By using 4-fluoro-N-[3-(4-fluorophenyl)-2,4,6,7-tetramethyl-1-benzofuran-5-yl]benzamide, the title compound was synthesized according to Example 2b. Yield: 66%. Melting point: 107-109° C. (Ethanol);

reactant | 4-fluoro-N-[3-(4-fluorophenyl)-2,4,6,7-tetramethyl-1-benzofuran-5-yl]benzamide | FC1=CC=C(C(=O)NC=2C(=C(C3=C(C(=C(O3)C)C3=CC=C(C=C3)F)C2C)C)C)C=C1 | C25H21F2NO2
solvent | Ethanol | C(C)O | C2H6O
product | N-(4-Fluorobenzyl)-3-(4-fluorophenyl)-2,4,6,7-tetramethyl-1-benzofuran-5-amine | Yield: 66% | FC1=CC=C(CNC=2C(=C(C3=C(C(=C(O3)C)C3=CC=C(C=C3)F)C2C)C)C)C=C1 | C25H23F2NO
